US07576215B2
3-BENZYL-4-{3-[(2,3-DIMETHYLPHENOXY)METHYL]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}methanol and 2,3-dimethylphenol according to the procedure of Example 69. MS (ESI) m/z 498.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}methanol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)CO)C(F)(F)F | C24H18F3NO
reactant | 2,3-dimethylphenol | CC1=C(C=CC=C1C)O | C8H10O
product | 3-BENZYL-4-{3-[(2,3-DIMETHYLPHENOXY)METHYL]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)COC1=C(C(=CC=C1)C)C)C(F)(F)F | C32H26F3NO
